US09079866B2
5-(2′,3,6′-Trifluorobiphenyl-4-yl)pyrazin-2-amine
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2,6-difluorobromobenzene. MS (ESI): mass calcd. for C16H10F3N3, 301.08; m/z found, 302.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.39 (s, 1H), 8.02 (s, 1H), 7.97 (m, 1H), 7.56-7.47 (m, 1H), 7.43 (d, J=12.5, 1H), 7.37 (d, J=7.9, 1H), 7.25 (m, 2H), 6.76 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2,6-difluorobromobenzene | FC1=C(C(=CC=C1)F)Br | C6H3BrF2
product | 5-(2′,3,6′-Trifluorobiphenyl-4-yl)pyrazin-2-amine | FC1=C(C(=CC=C1)F)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C16H10F3N3
